US08106070B2
2-(4-{2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]propyl}phenyl)-5-fluoropyridine
A solution of 4-(2,2-dimethylpropyl)-2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide in 1.5 N hydrocholoric acid (1 mL) and THF (1 mL) was heated at 70° C. in a sealed tube overnight. The reaction mixture was basified with 10% aqueous sodium hydroxide and extracted with ethyl acetate. The combined organic extracts were dried (sodium sulfate) and concentrated in vacuo. Purification of the resulting crude product by silica preparatory plate chromatography eluting with 10% methanol/ethyl acetate afforded the title compound. LCMS: (M+H) found 352.

reactant | 4-(2,2-dimethylpropyl)-2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)C)(C)C | C24H31FN4O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(4-{2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]propyl}phenyl)-5-fluoropyridine | CC(CC=1N=C(NC1)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)C)(C)C | C22H26FN3
